Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
Upper Back Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx of sickle cell disease, PE ___ (not currently 
anticoagulated), ESRD on PD dialysis, recent right forearm 
fistula placement last week at ___, HTN, Asthma presents with 
fever, chest pain and dry cough. Patient states she has had 
symptoms of chest pain which radiates from her left chest to her 
left shoulder for the last 3 days. She started having fevers 
yesterday to 101.9 and has been taking around-the-clock Tylenol 
since then. Patient also endorses a dry cough for the last 2 
days. She states her chest pain sometimes radiates to her neck 
and back, and is worse with lying down. She denies any 
hemoptysis. She had PE ___ years ago which was treated with 6 
months of coumadin, and has had not issues since, though she 
says this is similar symptoms to her PE. She denies recent 
travel, ___ swelling or pain. She reports her fistula site is 
feeling well without signs of infection. She denies any redness 
or swelling at her PD catheter site and has no abdominal pain.  
She denies any abdominal pain, nausea, vomiting, changes in 
bowel habits. She does not make urine. Patient states she is not 
been sexually active for years and has a Mirena though recent 
outpatient notes suggest this is no longer in place. Her last 
peritoneal dialysis was yesterday evening and was unremarkable.  

 
In the ED, initial vs were: ___ 90 115/74 18 100% ra  
EKG: SR 94 ___ no stemi. CXR showed small pleural effusions 
b/l but no evidence of pna. She was given levofloxacin 750 mg IV 
x 1.  
Labs showed Na 129 K 7.8 (hemolyzed, repeat K 4.2) Cl 88 HCO3 24 
BUN 62 Cr 19.9 Glc 92 AG 25. WBC 15.3 Hgb 10.6 Plt 286 Diff N75 
L5 M20, INR 1.4, D-dimer 2198, lactate 1.9, trop 0.04 thought to 
be in setting of ESRD. Of note, a bedside cardiac US performed 
with no pericardial effusion or right heart strain noted.  
She had a serum HCG which was elevated at 29 and 27 on repeat.  
Given the patient has a history of pulmonary embolism and 
elevated D-dimer, a CTA Chest to rule out PE was desired. 
However, given 2 positive serum beta hCG tests, a CTA Chest was 
deferred.  
Transfer VS: 18:58 0 98.1 85 117/83 16 100%  
On arrival to the floor, patient reports her chest 
pain/discomfort were improved, though still with some mild chest 
pain  
 
REVIEW OF SYSTEMS:  
+ as per HPI  
- Denies headache, vision changes, rhinorrhea, congestion, sore 
throat, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
All other 10-system review negative in detail.  

 
Past Medical History:
ESRD  
- Hypertension  
- Sickle cell Hb-C disease  
- Hyperlipidemia  
- Recent right forearm fistula placement last week at ___  
- Asthma  
-Past surgical history was a left upper extremity AV fistula and 
 
the peritoneal dialysis catheter placement.  

 
Social History:
___
Family History:
Twin sister: pulmonary embolism 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 98.6 132/86 86 18 100%ra  
GEN Alert, oriented, no acute distress  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Decreased BS at right base, other wise clear throughout  
CV RRR normal S1/S2, no mrg  
ABD soft NT ND normoactive bowel sounds, no r/g. PD dialysis 
site c/di  
EXT WWP 2+ pulses palpable bilaterally, no c/c/e, no erythema or 
swelling of the calf  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN healing right forearm fistula site  

DISCHARGE PHYSICAL EXAM:
Afebrile with stable Vs
GEN: Alert, oriented x3, no acute distress  
HEENT: NCAT MMM EOMI sclera anicteric, OP clear, no erythema or 
exudate 
NECK: supple, no JVD, no LAD  
PULM: normal respiratory effort, no accessory muscle use, 
moderate rales in lower lobes bilaterally, no w/rh  
CV: non-diplaced PMI, RRR normal S1/S2, no mrg  
ABD: soft NT ND normoactive bowel sounds, no r/g. PD dialysis 
site in lower abdomen left of midline c/d/i  
EXT: WWP 2+ pulses palpable bilaterally, no c/c/e, no erythema 
or swelling of the calf  
NEURO: CNs2-12 intact, motor function grossly normal  
SKIN: no ulcers or lesions, healing right forearm fistula site  
 

 
Pertinent Results:
ADMISSION LABS:
___ 11:12PM ASCITES  TOT PROT-0.2 GLUCOSE-248 LD(LDH)-18 
TOT BILI-0.0
___ 11:12PM ASCITES  WBC-26* RBC-3* POLYS-0 LYMPHS-2* 
MONOS-14* MESOTHELI-2* MACROPHAG-82*
___ 02:38PM   K+-4.2
___ 02:30PM   CK-MB-1
___ 02:30PM   HCG-27
___ 02:22PM   D-DIMER-2198*
___ 01:13PM   LACTATE-1.9
___ 01:00PM   GLUCOSE-92 UREA N-62* CREAT-19.9* SODIUM-129* 
POTASSIUM-7.8* CHLORIDE-88* TOTAL CO2-24 ANION GAP-25*
___ 01:00PM   estGFR-Using this
___ 01:00PM   cTropnT-0.04*
___ 01:00PM   HCG-29
___ 01:00PM   WBC-15.3* RBC-3.67* HGB-10.6* HCT-29.9* 
MCV-82 MCH-29.0 MCHC-35.6* RDW-18.2*
___ 01:00PM   NEUTS-75* BANDS-0 LYMPHS-5* MONOS-20* EOS-0 
BASOS-0 ___ MYELOS-0
___ 01:00PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL POIKILOCY-3+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL TARGET-3+
___ 01:00PM   PLT SMR-NORMAL PLT COUNT-286
___ 01:00PM   ___ PTT-30.3 ___
___ 01:00PM   RET AUT-3.1

Pertinent Results:

___ 01:00PM BLOOD ___ PTT-30.3 ___
___ 07:00AM BLOOD ___ PTT-149.3* ___
___ 06:50AM BLOOD ___ PTT-33.5 ___
___ 07:00AM BLOOD ___ PTT-35.4 ___

___ 06:50AM BLOOD WBC-24.2*# RBC-3.15* Hgb-9.0* Hct-25.7* 
MCV-81* MCH-28.6 MCHC-35.1* RDW-17.9* Plt ___
___ 04:03PM BLOOD WBC-22.4* RBC-3.06* Hgb-8.8* Hct-24.5* 
MCV-80* MCH-28.8 MCHC-36.0* RDW-17.7* Plt ___
___ 06:50AM BLOOD WBC-20.4* RBC-3.03* Hgb-8.7* Hct-24.0* 
MCV-79* MCH-28.7 MCHC-36.2* RDW-18.1* Plt ___
___ 07:00AM BLOOD WBC-17.5* RBC-3.04* Hgb-8.7* Hct-24.4* 
MCV-81* MCH-28.6 MCHC-35.5* RDW-18.1* Plt ___

___ 01:00PM BLOOD cTropnT-0.04*
___ 07:00AM BLOOD CK-MB-5 cTropnT-0.64*
___ 06:50AM BLOOD CK-MB-2 cTropnT-1.80*
___ 04:03PM BLOOD CK-MB-2 cTropnT-1.94*
___ 06:50AM BLOOD CK-MB-1 cTropnT-2.35*
___ 07:00AM BLOOD CK-MB-1 cTropnT-1.82*

Imaging:

CXR (___): FINDINGS:  There are small bilateral pleural 
effusions.  No focal consolidation or pneumothorax is seen.  
Heart and mediastinal contours are within normal limits.  Aortic 
arch calcifications are seen.  
A linear coiled density projects over the anterior upper 
abdomen. 
  
IMPRESSION:  Small bilateral pleural effusions. 

Pelvic US (___):
FINDINGS: 
  
On transabdominal imaging there is free fluid seen within the 
pelvis 
consistent with the patient's ongoing peritoneal dialysis.  The 
uterus 
measures 8.4 x 6.6 x 6.1 cm.  An endovaginal exam was performed 
for better 
visualization of the endometrium and adnexa. 
  
There is no IUD visualized within the uterus.  The uterus is 
entirely 
heterogeneous throughout and the endometrium could not be 
visualized.  There is no intrauterine pregnancy identified.  The 
right ovary is normal in appearance measuring 1.8 x 2.1 x 1.4 
cm.  The left ovary is normal measuring 1.8 x 1.1 x 1.6 cm.  No 
suspicious mass is seen within the adnexa bilaterally. 
  
IMPRESSION: 
  
1. No IUD identified. 
  
2. There is no intrauterine pregnancy identified and no ectopic 
pregnancy 
identified.  In the setting of positive HCG this ultrasound 
cannot exclude an ectopic pregnancy; differential diagnosis 
includes early pregnancy or missed abortion.  Close follow up 
with serial HCG and short interval follow up ultrasound is 
recommended.    
  
3. The uterus is heterogeneous throughout which may represent 
adenomyosis. Correlation with patient's history is suggested.  
Since no endometrial borders could not be visualized, the 
likelihood of trophoblastic disease (given positive HCG and 
heterogeneous appearance) is felt unlikely, however reassessment 
can be performed at repeat ultrasound. 
  
4. Free fluid within the pelvis consistent with the patient's 
peritoneal 
dialysis. 

CTA chest (___): 
IMPRESSION: 
1.  Pneumonia, right lower lobe greater than left, accompanied 
by small 
bilateral layering pleural effusions. 
2.  No clinically significant pulmonary embolus. 
3.  Atherosclerosis, including coronaries, most pronounced at 
innominate 
bifurcation. 

TTE (___):
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF 70%). The right ventricular free wall is hypertrophied. 
Right ventricular chamber size is normal. with normal free wall 
contractility. The aortic root is mildly dilated at the sinus 
level. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is moderate pulmonary artery systolic hypertension. 
There is no pericardial effusion.  

Discharge Labs:
___ 07:10AM BLOOD WBC-14.6* RBC-3.06* Hgb-8.7* Hct-24.6* 
MCV-81* MCH-28.4 MCHC-35.3* RDW-18.1* Plt ___
___ 07:10AM BLOOD ___ PTT-28.7 ___
___ 07:10AM BLOOD Glucose-106* UreaN-56* Creat-15.9*# 
Na-134 K-3.8 Cl-87* HCO3-29 AnGap-22*
___ 07:10AM BLOOD CK-MB-1 cTropnT-0.96*
___ 07:10AM BLOOD Calcium-9.7 Phos-7.0* Mg-2.___ year old female with history of ESRD on PD dialysis, recent 
right forearm fistula placement at ___, HTN, who presents with 
fever, chest pain and dry cough and was found to have pneumonia. 
 

Active Issues
# Chest pain secondary to pneumonia: Pt with acute onset left 
chest pain x 3 days. She also has cough and fever but no 
shortness of breath. CXR showed small pleural effusions, with no 
evidence of pneumonia to explain her symptoms. This could 
possibly be a PE given her history of recent surgery, history of 
PE and elevated d-dimer. Her current Wells score is 6 which 
makes her high probability. Differential also includes sickle 
cell crisis/acute chest syndrome given her history of SCD, 
although patient generally only has 1 crisis per year and her 
episodes are characterized by joint pain. In addition, she is 
not endorsing any other symptoms of pain crisis. Pt also does 
not have signs of hemoconcentration either. MI was unlikely 
given normal CKMB and ECG initially. CTA was deferred in the ED 
given concern for possible pregnancy since she was found to have 
elevated serum HCG, although pt denying any history of sexual 
activity for past ___ yrs, and claimed to have an IUD. Given high 
suspicion of PE, pt was started on heparin ggt since she has a 
history of prior PE and recent hospitalization for fistula 
placement. An pelvic ultrasound was done which showed no 
intrauterine pregnancy, no IUD, and repeat HCG was down 
trending. Given concern for PE and unlikely that patient was 
pregnant we got a CTA chest which was negative for PE so heparin 
gtt was stopped but it identified a bilateral lower lobe 
pneumonia which we treated with levofloxacin (for CAP) for a 
total duration of 7 days renally dosed. With this treatment 
patient symptoms improved. Patient incidentally noted on 
telemetry to have ___ beat runs of NSVT, asymptomatic and with 
electrolytes within normal range. 

# Fever/leukocytosis: This was secondary to PNA which was found 
on chest CT. There was no evidence of peritonitis, concern in 
the setting of her PD catheter, and a peritoneal fluid culture 
was negative. New fistula placement last week also a possible 
nidus of infection though looks well healing on exam. Pt fevers 
resolved and WBC count trended down with treatment of the 
pneumonia.    

# Elevated Serum HCG: Pt adamantly denies any sexual activity 
and says she is not pregnant given she has Mirena IUD (pt is a 
good historian and this seems reliable), although no IUD was 
found on US. Pt previously had an IUD expelled previously so it 
is possible this happened again. HCG can also be a germ cell 
tumor marker or positive in the setting of hydatiform mole, 
though would expect very high levels in this case. Possible 
elevation in setting of ESRD since HCG is renally cleared. 
Repeat HCG measurement showed the level declining. Other cause 
of elevated HCG could be patient is ___ which can 
cause a rise in HCG or it could be related to her elevated 
prolactin level that was previously found. This will likely need 
to be further worked up as an outpatient. 
 
# Elevated Troponin T: Pt had a significant and sustained rise 
in cardiac troponin T which was initially negative in the 
setting of her initial pleuritic chest pain. Throughout the 
course of her hospitalization her troponin increased and peaked 
around 2.3 before declining. Throughout this time pt did not 
have any chest pain. Although her CKMB, ECG, and echo did not 
show evidence of ACS. Pt was initially started on aspirin. The 
cause of the troponin leak is unclear (clearance is hindered due 
to her ESRD) but differential included myocarditis and 
pericarditis although these were no seen on echo. Pt was 
followed by cardiology as well. It was suggested that a nuclear 
imaging of the heart may be necessary if the troponin continued 
to rise however they were declining for several days prior to 
discharge. On discharge her troponin was 0.96 and CKMB was 1.

# Elevated INR: Pt with an isolated elevated INR with normal 
PTT, normal platelets. This could be due to vitamin K deficiency 
in setting of antibiotic use or it could be secondary to a 
factor VII inhibitor. Pt was given vitamin K with response of 
her INR to 1.5 on day of discharge.

Chronic Issues:

# ESRD on PD: Cr of 19 on admission but within past baselines. 
We monitored her electrolytes. Pt was continued on peritoneal 
dialysis while in house with BI dialysis following, and she was 
continued on sevelamer, cinacalcet, and Nephrocaps. We held 
paricalcitol given her high phosphate level.

# History of sickle cell disease(SC): Pt had no signs or 
symptoms of pain crisis right now, and very low likelihood of 
acute chest syndrome since she has no significant 
hemoconcentration on labs, a benign CXR, and she is not in 
significant pain. In addition since patient has SC disease she 
is less likely to have acute sickle cell crisis. She also states 
that her normal crisis involve joint pain and that she never has 
had acute chest syndrome before.  

# HTN: Pt is currently normotensive. Will continue carvedilol 
and nifedipine.  

Transitional Issues:
1. Pt will need follow up of her elevated serum HCG.
2. Pt will need follow up of her elevated troponin by 
cardiology.
3. Please follow up on patient elevated INR. Would recommend 
recheck and mixing study if persistently elevated.
4. Dr. ___ of ___ Cardiology recommended ASA 81mg and 
a statin for her cardiovascular risk. This can be started with 
f/u labs as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine *NF* 10 mg Oral Daily 
2. Paricalcitol 2 mcg IV 3X/WEEK (___) 
___ 
3. Multivitamins 1 TAB PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Zolpidem Tartrate 5 mg PO HS 
6. NIFEdipine CR 90 mg PO DAILY 
7. Cinacalcet 30 mg PO BID 
8. Omeprazole 20 mg PO DAILY 
9. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
10. Carvedilol 12.5 mg PO BID 
hold for sbp<100, hr<60 
11. Epoetin Alfa 20,000 units SC WEEKLY Start: HS 

 
Discharge Medications:
1. Carvedilol 12.5 mg PO BID 
hold for sbp<100, hr<60 
2. Cinacalcet 30 mg PO BID 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. NIFEdipine CR 90 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
8. Zolpidem Tartrate 5 mg PO HS 
9. Levofloxacin 500 mg PO Q48H Duration: 7 Days 
RX *levofloxacin 500 mg 1 tablet(s) by mouth Once on ___ 
Disp #*1 Tablet Refills:*0
10. Nephrocaps 1 CAP PO DAILY 
RX *B complex-vitamin C-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth Daily Disp #*30 Capsule Refills:*0
11. Epoetin Alfa 20,000 units SC WEEKLY 
12. Loratadine *NF* 10 mg Oral Daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you on your recent hospitalization 
at ___. You came to the hospital because you were having chest 
and back pain. Given your history of prior pulmonary embolism 
and recent surgery we initially treated you for a pulmonary 
embolism (a blood clot in your lung) with heparin. Imaging of 
your lungs showed you did not have a pulmonary embolism but that 
you have pneumonia. We treated your pneumonia with antibiotics 
and your symptoms improved.

The following changes were made to your medications:
Start:
1. Levofloxacin 500mg every other day for total of 7 days, Next 
and last dose on ___. Nephrocaps 1 tab daily
3. Please discuss Aspirin and Statin medication when you see 
your doctor as these are shown to reduce cardiovascular risk
 
Followup Instructions:
___